US05591881
Stereoselective preparation of (E)-(3R)-3-t-butyldimethylsilyloxy-1-(p-methoxyphenylthio)-1-butene
Under the nitrogen atmosphere, 3.24g (11 mmole) of diethyl-p-methoxyphenylthiomethyl phosphonate was dissolved in 50 ml of anhydrous tetrahydrofuran and after lowering the reaction temperature to -78° C., 6.87 ml (11 mmole) of 1.6M n-BuLi was added to the mixture for ten minutes. The resultant mixture was agitated at the temperature of -78° C. for 30 minutes. At the same temperature, 1.87 g (10 mmole) of (2R)-2-(t-butyldimethylsilyloxy)propanal diluted with 10 ml of anhydrous tetrahydrofuran was added to the said reaction mixture and the reaction temperature raised to 0° C., and then the mixture agitated at 0° C. for another 1.5 hours. Once the reaction was completed, the reaction was quenched by adding saturated ammonium chloride solution. After the work-up treatment in the same manner as did in method A of EXAMPLE 32, the crude product (2.92 g) obtained therefrom was purified by a column chromatography (using n-hexane containing 3% diethyl ether as an eluent), thereby 2.59 g of desired compound having E/Z ratio of over 100/1 (yield: 80%) was stereoselectively obtained.

reactant | diethyl-p-methoxyphenylthiomethyl phosphonate | 11 mmole, 3.24g | P(OC(SC1=CC=C(C=C1)OC)(CC)CC)([O-])=O
reactant | n-BuLi | 11 mmole, 1.6M, 6.87 ml | [Li]CCCC
reactant | (2R)-2-(t-butyldimethylsilyloxy)propanal | 10 mmole, 1.87 g | [Si](C)(C)(C(C)(C)C)O[C@@H](C=O)C | C9H20O2Si
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (E)-(3R)-3-t-butyldimethylsilyloxy-1-(p-methoxyphenylthio)-1-butene | 2.92 g | [Si](C)(C)(C(C)(C)C)O[C@@H](/C=C/SC1=CC=C(C=C1)OC)C | C17H28O2SSi
